US04755516
4-(Guanin-9-yl)-3-oxabutanal
To a vigorously stirred solution of 1.42 g (6.66 mmole) of sodium periodate in 14 ml of water at room temperature was added 1.34 g (5 mmole) of 9-(2,3-dihydroxy-1-propoxymethyl)guanine. The addition was accompanied by a mild exotherm. The reaction flask was stoppered, and stirring was continued at ambient temperature. After 1.5 hours, by which time the reaction was judged to be complete by high pressure liquid chromatography, the mixture was filtered. The solid on the filter was washed with small volumes of cold water and then with acetone. After air-drying overnight, yield of white powder was 1.13 g (90%), m.p. 350° (darkened beginning at about 250° without melting). Satisfactory purity was confirmed by TLC (80:20:2 CHCl3 -methanol-H2O) and analytical high pressure liquid chromatography (H2O, C8 reverse phase). By NMR (DMSO-d6) the material existed as a mixture of free aldehyde and covalent hydrate in a ratio of approximately 1:3 (This ratio was variable in different preparations).

reactant | sodium periodate | 6.66 mmole, 1.42 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 9-(2,3-dihydroxy-1-propoxymethyl)guanine | 5 mmole, 1.34 g | OC(COCN1C=2N=C(NC(C2N=C1)=O)N)CO | C9H13N5O4
solvent | water | 14 ml | O | H2O
product | 4-(Guanin-9-yl)-3-oxabutanal | N1C(N)=NC=2N(C=NC2C1=O)COCC=O | C8H9N5O3
